US09193693B2
A solution of methyl 2-phenyl-3-(4-(4-(trifluoromethyl)phenyl)piperidin-1-yl)quinoxaline-6-carboxylate (50 mg, 0.10 mmol, 1.00 equiv) and sodium hydroxide (20 mg, 0.50 mmol, 5.00 equiv) in methanol (10 mL) was placed in a 50-mL round bottom flask and stirred for 2 h at 50° C. in an oil bath. The pH value of the solution was adjusted to 4-5 with aqueous sodium hydroxide (1 M). The resulting solution was extracted with 3×10 mL of dichloromethane, and the organic layers combined, concentrated under vacuum, and purified by prep-TLC (DCM:CH3OH 10:1) yielding 25 mg (51%) of 2-phenyl-3-(4-(4-(trifluoromethyl)phenyl)piperidin-1-yl)quinoxaline-6-carboxylic acid as a white solid.

reactant | methyl 2-phenyl-3-(4-(4-(trifluoromethyl)phenyl)piperidin-1-yl)quinoxaline-6-carboxylate | 0.10 mmol, 50 mg, 1.00 equiv | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1N1CCC(CC1)C1=CC=C(C=C1)C(F)(F)F)C(=O)OC | C28H24F3N3O2
reactant | sodium hydroxide | 0.50 mmol, 20 mg, 5.00 equiv | [OH-].[Na+]
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 2-phenyl-3-(4-(4-(trifluoromethyl)phenyl)piperidin-1-yl)quinoxaline-6-carboxylic acid | 25 mg, 51% | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1N1CCC(CC1)C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C27H22F3N3O2
